US08703761B2
[1,4]Oxazepane-4-carboxylic acid {1-[5-(4-fluoro-benzoyl)-4-trifluoromethyl-thiazol-2-ylcarbamoyl]-1-methyl-ethyl}-amide
A mixture of triphosgene (79 mg, 0.27 mmol) and 2-Amino-N-[5-(4-fluoro-benzoyl)-4-trifluoromethyl-thiazol-2-yl]-2-methyl-propionamide (100 mg, 0.266 mmol), K2CO3 (147 mg, 1.07 mmol) in water (3 mL) and dichloromethane (3 mL) was stirred at RT for 1 h, and water layer was separated, and dichloromethane layer was dried over Na2SO4 and concentrated to give the crude intermediate, which was taken up in pyridine (10 mL). Homomorpholine HCl salt (269 mg, 2.66 mmol) was basified by partitioning between ethyl acetate and aqueous KOH, and after evaporation of the solvent, it was added to the intermediate above. The mixture was heated at 80° C. for 18 h, and most of pyridine was removed under vacuum, and the mixture was partitioned between ethyl acetate and 1 M HCl. The combined organic extract was dried over Na2SO4, concentrated and chromatographed to give the title compound. m/z 503.0 (MH+), 1H NMR (CDCl3) δ 11.4 (s, 1H), 7.92 (dd, J=8, 4 Hz, 2H), 7.16 (t, J=8 Hz, 2H), 4.64 (s, 1H), 3.80-3.75 (m, 4H), 3.60-3.50 (m, 4H), 2.02-1.93 (m, 2H), 1.63 (s, 6H). Retention time 1.31 min (method A).

reactant | triphosgene | 0.27 mmol, 79 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-Amino-N-[5-(4-fluoro-benzoyl)-4-trifluoromethyl-thiazol-2-yl]-2-methyl-propionamide | 0.266 mmol, 100 mg | NC(C(=O)NC=1SC(=C(N1)C(F)(F)F)C(C1=CC=C(C=C1)F)=O)(C)C | C15H13F4N3O2S
reactant | K2CO3 | 1.07 mmol, 147 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Homomorpholine HCl | 2.66 mmol, 269 mg | C1CNCCOC1.Cl
solvent | water | 3 mL | O | H2O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | [1,4]Oxazepane-4-carboxylic acid {1-[5-(4-fluoro-benzoyl)-4-trifluoromethyl-thiazol-2-ylcarbamoyl]-1-methyl-ethyl}-amide | FC1=CC=C(C(=O)C2=C(N=C(S2)NC(=O)C(C)(C)NC(=O)N2CCOCCC2)C(F)(F)F)C=C1 | C21H22F4N4O4S
